### PR TITLE
Some more theory on powerRZ.

### PR DESCRIPTION
**Pull request by tomsib2001**
As I needed these lemmas on powerRZ and they are quite elementary, I thought of sharing them with the community.

For this, I used a new inductive type Z_spec to reason on Z for which I was not able to find a suitable location. I don't expect that the code will be merged as is, so any recommendations on where to put stuff are welcome!

### CODE REVIEW

**Comment by herbelin** [comment]
@letouzey should know where to put Z_spec.

Maybe a comment on top of Z_spec could explain what it does (even more that coercions tend to hide the job it does).

The equalities generated by Z_spec_ind are not used finally, right? I wonder whether there is a way to avoid having to introduce them. (Or is the intent that there are kept to tell which goal is currently being proved, as some users do for documenting in which subgoal produced by a case analysis they are, by lack of a proper naming of goals telling which subgoal is which subgoal?).

File: theories/Reals/Rfunctions.v [hunk 1]
```diff
@@ -531,6 +531,40 @@ Qed.
...
+  apply ZintPos.
+  now rewrite positive_nat_Z.
+- intros p.
+  rewrite <-Pos2Z.opp_pos.
+  rewrite <-positive_nat_Z at 2.
+  apply ZintNeg.
+  now rewrite positive_nat_Z.
+Qed.
+
+Local Close Scope Z_scope.
```
Comment (silene) [inline theories/Reals/Rfunctions.v]: If there is no bug in Coq, this should be useless.

File: theories/Reals/Rfunctions.v [hunk 2]
```diff
@@ -657,6 +691,106 @@ Proof.
...
+  unfold powerRZ.
+  case (- n).
+  + now rewrite Rinv_1.
+  + intros p.
+    now rewrite Rinv_pow.
+  + intros p.
+    now rewrite <-Rinv_pow.
+Qed.
+
+Lemma powerRZ_inv_neg x alpha : (x <> 0)%R -> powerRZ x alpha = powerRZ (/ x) (- alpha).
```
Comment (silene) [inline theories/Reals/Rfunctions.v]: I would write the equality the other way around, so that the default left-to-right rewriting simplifies expressions.

File: theories/Reals/Rfunctions.v [hunk 3]
```diff
@@ -657,6 +691,106 @@ Proof.
...
+  rewrite <-powerRZ_add.
+  assert((-1 + - Z.of_nat n) = (- Z.of_nat (S n)))%Z.
+    now rewrite <-Nat.add_1_r, Nat2Z.inj_add, Z.opp_add_distr, Z.add_comm.
+  now rewrite H0.
+  now apply Rinv_neq_0_compat.
+- intros n x0 Hx0; rewrite pow_powerRZ; rewrite Z.opp_involutive.
+  now rewrite powerRZ_inv.
+Qed.
+
+Lemma powerRZ_neg_inv x alpha : (x <> 0)%R -> powerRZ (/ x) alpha = powerRZ x (- alpha).
```
Comment (silene) [inline theories/Reals/Rfunctions.v]: I am a bit annoyed by the naming of this lemma. Sure, the standard library is really bad at naming, but if we can avoid adding yet more perplexing names, it would be better. It seems to me that one of `powerRZ_inv_neg` and `powerRZ_neg_inv` is redundant. So I would keep only one of them, `powerRZ x (- alpha) = powerRZ (/ x) alpha` for instance, and name it `powerRZ_neg`. Also, your proofs seem a bit too long:

    Goal forall x alpha, x <> R0 -> powerRZ x (- alpha) = powerRZ (/ x) alpha.
    Proof.
    intros x [|n|n] H ; simpl.
    - easy.
    - now rewrite Rinv_pow.
    - rewrite Rinv_pow by now apply Rinv_neq_0_compat.
      now rewrite Rinv_involutive.
    Qed.

File: theories/Reals/Rfunctions.v [hunk 4]
```diff
@@ -657,6 +691,106 @@ Proof.
...
+Proof.
+intros Hx; rewrite <-(Z.opp_involutive alpha).
+now rewrite <-powerRZ_inv_neg, ?Z.opp_involutive.
+Qed.
+
+Lemma powerRZ_mult_distr : forall m x y, ((m >= 0)%Z \/ (x * y <> 0)%R) -> (powerRZ (x*y) m = powerRZ x m * powerRZ y m)%R.
```
Comment (silene) [inline theories/Reals/Rfunctions.v]: Use `0 <= m` instead of `m >= 0`. These are not convertible unfortunately, so it is better to stick to only one of them and `Zle` is used more often than `Zge`.

File: theories/Reals/Rfunctions.v [hunk 5]
```diff
@@ -657,6 +691,106 @@ Proof.
...
+  assert(x0 <> 0)%R.
+    now intros Habs; apply H; rewrite Habs; rewrite Rmult_0_l.
+  assert(y0 <> 0)%R.
+    now intros Habs; apply H; rewrite Habs; rewrite Rmult_0_r.
+  rewrite <-!powerRZ_neg_inv; try auto.
+  rewrite Rinv_mult_distr; try auto.
+  now rewrite <-!pow_powerRZ; rewrite Rpow_mult_distr.
+Qed.
+
+Local Close Scope Z_scope.
```
Comment (silene) [inline theories/Reals/Rfunctions.v]: Again, this should be useless.

**Review by silene — COMMENTED** [review]
Overall, I would like this commit to be part of 8.7.

File: theories/Reals/Rfunctions.v (hunk 1 above)
Comment (tomsib2001) [inline theories/Reals/Rfunctions.v]: I'm not sure what you mean, it was not useless for me to prove these lemmas.

Comment (JasonGross) [inline theories/Reals/Rfunctions.v]: I understood the comment as about only the `Local Close Scope `

**Comment by tomsib2001** [comment]
@herbelin Thanks for the feedback. The equalities are only used once in this development, namely at the line

    assert(m = 0)

where it is crucial to know that m is equal to n. I expect that it could be useful in other cases.

File: theories/Reals/Rfunctions.v (hunk 3 above)
Comment (tomsib2001) [inline theories/Reals/Rfunctions.v]: Agreed.

**Comment by tomsib2001** [comment]
I pushed a new version of my pull request taking into account your comments (although Z_spec has not moved yet). I force pushed because I don't see the point of having a bloated commit history for something like this. Please let me know if any new modifications are in order.

File: theories/Reals/Rfunctions.v [hunk 6]
```diff
@@ -657,6 +689,86 @@ Proof.
...
+    assert(m = 0); [now omega|].
+    now rewrite <-Hm,H0; simpl; rewrite Rmult_1_l.
+  assert(x0 <> 0)%R.
+    now intros Habs; apply H; rewrite Habs; rewrite Rmult_0_l.
+  assert(y0 <> 0)%R.
+    now intros Habs; apply H; rewrite Habs; rewrite Rmult_0_r.
+  rewrite !powerRZ_neg; try auto.
+  rewrite Rinv_mult_distr; try auto.
+  now rewrite <-!pow_powerRZ; rewrite Rpow_mult_distr.
+Qed.
```
Comment (Zimmi48) [inline theories/Reals/Rfunctions.v]: Once again only changing the style:
```
Lemma powerRZ_mult_distr :
  forall m x y, ((0 <= m)%Z \/ (x * y <> 0)%R) ->
           (powerRZ (x*y) m = powerRZ x m * powerRZ y m)%R.
Proof.
  intros m x0 y0 Hmxy.
  destruct (intP m) as [ | | n Hm ].
  - now simpl; rewrite Rmult_1_l.
  - now rewrite <- !pow_powerRZ, Rpow_mult_distr.
  - destruct Hmxy as [H|H].
    + assert(m = 0) as -> by now omega.
      now rewrite <- Hm, Rmult_1_l.
    + assert(x0 <> 0)%R by now intros ->; apply H; rewrite Rmult_0_l.
      assert(y0 <> 0)%R by now intros ->; apply H; rewrite Rmult_0_r.
      rewrite !powerRZ_neg by assumption.
      rewrite Rinv_mult_distr by assumption.
      now rewrite <- !pow_powerRZ, Rpow_mult_distr.
Qed.
```
Comments:
- Try to cut theorems statements when they do not fit on one line.
- The three `assert` become `assert ... by` since each of them has a one-line proof.
- Introducing to immediately rewrite can be done with an intro-pattern.
- `try auto` can be replaced by `auto` since it does not fail but here I replaced `; try auto` by `by assumption` since it becomes more clear what is happening and `rewrite` supports the `by` clause.

File: theories/Reals/Rpower.v [hunk 7]
```diff
@@ -490,6 +490,20 @@ Proof.
...
+  intros Habs; rewrite Habs in Hx; exact (Rlt_irrefl 0 Hx).
+case (intP z).
+- now intros _; simpl; rewrite Rpower_O.
+- intros n _. rewrite <-pow_powerRZ,<-Rpower_pow; try easy.
+  now rewrite INR_IZR_INZ.
+- intros n _. rewrite opp_IZR, Rpower_Ropp.
+  rewrite powerRZ_neg,powerRZ_inv; try easy.
+  rewrite <-pow_powerRZ, <-INR_IZR_INZ, Rpower_pow; try easy.
+Qed.
+
```
Comment (Zimmi48) [inline theories/Reals/Rpower.v]:
```
Proof.
  intros Hx.
  assert (x <> 0)%R
    by now intros Habs; rewrite Habs in Hx; apply (Rlt_irrefl 0).
  destruct (intP z).
  - now rewrite Rpower_O.
  - rewrite <- pow_powerRZ, <- Rpower_pow by assumption.
    now rewrite INR_IZR_INZ.
  - rewrite opp_IZR, Rpower_Ropp.
    rewrite powerRZ_neg, powerRZ_inv by assumption.
    now rewrite <- pow_powerRZ, <- INR_IZR_INZ, Rpower_pow.
Qed.
```
Basically the same remarks here. Once again, `by assumption` can be used to make clearer that your `assert` was proved because it is a side condition that is useful for rewriting.

**Review by Zimmi48 — COMMENTED** [review]
This whole review is only about stylistic comments. We don't have a style guide for the standard library yet but I feel that new contributions should try to follow what we can call a "modern style". Don't feel forced to follow all my recommendations if some do not feel right to you.

PS: force-pushing on a PR is indeed what is expected from you when updating.

File: theories/Reals/Rfunctions.v [hunk 8]
```diff
@@ -657,6 +689,86 @@ Proof.
...
+  rewrite <-(pow_powerRZ); apply Hpos.
+- intros n Hm.
+  unfold powerRZ.
+  case n.
+    easy.
+  intros n0.
+  rewrite Nat2Z.inj_succ,<-Zpos_P_of_succ_nat,Pos2Z.opp_pos.
+  rewrite <-Pos2Z.opp_pos,<-positive_nat_Z.
+  apply Hneg.
+Qed.
```
Comment (tomsib2001) [inline theories/Reals/Rfunctions.v]: (this also concerns an earlier comment) I'd rather systematically give name to variables I use so I amended your proof using "destruct as" instead of "destruct" into:

    Proof.
      intros ? ? ? x m.
      destruct (intP m) as [n Hm| n Hm|n Hm].
      - easy.
      - now rewrite <- pow_powerRZ.
      - unfold powerRZ.
        destruct n as [|n]; [ easy |].
        rewrite Nat2Z.inj_succ, <- Zpos_P_of_succ_nat, Pos2Z.opp_pos.
        now rewrite <- Pos2Z.opp_pos, <- positive_nat_Z.
    Qed.

File: theories/Reals/Rfunctions.v (hunk 6 above)
Comment (tomsib2001) [inline theories/Reals/Rfunctions.v]: Thanks! Most of the clumsiness comes from my inexperience with patterns in Coq as opposed to those of ssreflect.

**Comment by tomsib2001** [comment]
I just updated the PR to take into account style comments by @Zimmi48. Please let me know if any modifications are necessary before including this.

**Comment by maximedenes** [comment]
@letouzey could you indicate where we should put `Z_spec`? It is the last blocking bit for this PR. Thanks!

**Comment by maximedenes** [comment]
@letouzey bump

**Comment by maximedenes** [comment]
Ok, I'll merge as it is, and we'll see where to move `Z_spec` in a second step.

**Comment by maximedenes** [comment]
@tomsib2001 Thanks a lot for contributing, and apologies for the lack of responsiveness of the maintainer. We'll try to fix that.
